US06166028
2-(3,5-Dichloro-phenylsulfanyl)-ethylamine
To a solution of (3,5-dichlorophenylthio)acetonitrile (1.2 g) in 3.0 mL of ethylene glycol dimethyl ether is added 0.61 mL of 10 M borane dimethyl sulfide complex and the mixture heated at reflux for 0.5 hours. The reaction is cooled in an ice bath and 2.0 mL of water and 2.0 mL of concentrated hydrochloric acid is added. This mixture is heated at reflux for 0.5 hr. The clear solution is then cooled and basified with 5 N sodium hydroxide and extracted with ether. The ether extract is dried over potassium carbonate, filtered and concentrated to give 1.0 g of a colorless oil.

reactant | (3,5-dichlorophenylthio)acetonitrile | 1.2 g | ClC=1C=C(C=C(C1)Cl)SCC#N | C8H5Cl2NS
reactant | water | 2.0 mL | O | H2O
reactant | hydrochloric acid | 2.0 mL | Cl | ClH
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | ethylene glycol dimethyl ether | 3.0 mL | COCCOC | C4H10O2
product | 2-(3,5-Dichloro-phenylsulfanyl)-ethylamine | 1.0 g | ClC=1C=C(C=C(C1)Cl)SCCN | C8H9Cl2NS
